US04233231
Preparation of (E)-1-tri-n-butylstannyl-3-(2-tetrahydropyranyloxy)-1-octene
A mixture of bis(tri-n-butylstannyl) oxide (42.5 g 71.3 mmol.) and polymethylhydrogen siloxane (9.5 g) is stirred at ambient temperature for 30 minutes. To this mixture is added 3-(2-tetrahydropyranyloxy)-1-octyne (21 g, 100 mmol.) and azobisisobutyronitrile (100 gm). The reaction mixture is warmed to 80° C. whereupon an exothermic reaction occurs. After several additional hours at 80° C., the reaction mixture is distilled under vacuum to provide 16.7 g of the product as an oil (bp 174°-178° C., 0.8 mm).

reactant | bis(tri-n-butylstannyl) oxide | 71.3 mmol, 42.5 g | C(CCC)[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | 3-(2-tetrahydropyranyloxy)-1-octyne | 100 mmol, 21 g | O1C(CCCC1)OC(C#C)CCCCC | C13H22O2
reactant | azobisisobutyronitrile | 100 gm | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | (E)-1-tri-n-butylstannyl-3-(2-tetrahydropyranyloxy)-1-octene | 16.7 g | C(CCC)[Sn](\C=C\C(CCCCC)OC1OCCCC1)(CCCC)CCCC | InChI=1S/C13H23O2.3C4H9.Sn/c1-3-5-6-9-12(4-2)15-13-10-7-8-11-14-13;3*1-3-4-2;/h2,4,12-13H,3,5-11H2,1H3;3*1,3-4H2,2H3;
